US07635715B2
Step F: Preparation of N-((4-Hydroxy-5-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
A mixture of 1,1-dimethylethyl N-((4-hydroxy-5-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (32 mg, 77 μmol) in 2 mL TFA was stirred at room temperature for 30 minutes, M+1=362, M−1=360. The mixture was concentrated in vacuo, and purified by column chromatography eluting with 0.1:10:100 TFA/MeOH/DCM to give 9 mg of the product as a pale yellow solid. MS (m/z)=362 (M+H)+. Calculated for C18H19NO7 361.12.

reactant | 1,1-dimethylethyl N-((4-hydroxy-5-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 77 μmol, 32 mg | OC1=C(C(C2(CCOCC2)C2=CC=CC(=C12)OC)=O)C(=O)NCC(=O)OC(C)(C)C | C22H27NO7
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((4-Hydroxy-5-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | 9 mg | OC1=C(C(C2(CCOCC2)C2=CC=CC(=C12)OC)=O)C(=O)NCC(=O)O | C18H19NO7
